US07074809B2
3-Ethyl-benzonitrile (400 mg, 3.05 mmol) with 5 M hydroxylamine hydrochloride (0.61 mL) and 1 M sodium hydroxide (3.05 mL) in ethanol (3 mL) were stirred at room temperature for 60 h. Work up as in example 4 afforded 230 mg (46%) of 3-ethyl-N-hydroxy-benzamidine.

reactant | 3-Ethyl-benzonitrile | 3.05 mmol, 400 mg | C(C)C=1C=C(C#N)C=CC1 | C9H9N
reactant | hydroxylamine hydrochloride | 5 M, 0.61 mL | Cl.NO
reactant | sodium hydroxide | 1 M, 3.05 mL | [OH-].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 3-ethyl-N-hydroxy-benzamidine | 230 mg, 46% | C(C)C=1C=C(C(=N)NO)C=CC1 | C9H12N2O
